US07199244B2
Preparation XXIV—(6-bromo-chroman-4-yl)-carbamic acid tert-butyl ester
To a RT solution of 6-bromo-chroman-4-ylamine (2.270 g, 9.952 mmol) and di-tert-butyl dicarbonate (2.606 g, 11.94 mmol) in CH2Cl2 (50 mL) was added a solution of NaHCO3 (1.672 g, 19.90 mmol) in H2O (50 mL). The bi-phasic mixture was rapidly stirred until complete consumption of starting material was observed by HPLC analysis (over night). The reaction was diluted with EtOAc and H2O and the layers were separated. The organics were dried with MgSO4 and concentrated in vacuo to afford the crude title compound, which was used without further purification.

reactant | 6-bromo-chroman-4-ylamine | 9.952 mmol, 2.270 g | BrC=1C=C2C(CCOC2=CC1)N | C9H10BrNO
reactant | di-tert-butyl dicarbonate | 11.94 mmol, 2.606 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaHCO3 | 19.90 mmol, 1.672 g | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 50 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (6-bromo-chroman-4-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CCOC2=CC=C(C=C12)Br)=O | C14H18BrNO3
